US04740602
0.02 mol of concentrated ammonia (D=0.9) is added drop-wise to a solution of 4.02 g of 2-[4-(5-methoxycarbonyl-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzofuro[2,3-c]pyridine in 30 ml of dimethylformamide at 20°. The mixture is stirred at 20° for 1 hour, the usual working up is carried out and 2-[4-(5-carbamoyl-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzofuro[2,3-c]pyridine is obtained.

reactant | ammonia | 0.02 mol | N | H3N
reactant | 2-[4-(5-methoxycarbonyl-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzofuro[2,3-c]pyridine | 4.02 g | COC(=O)C=1C=C2C(=CNC2=CC1)CCCCN1CC2=C(CC1)C1=C(O2)C=CC=C1 | C25H26N2O3
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-[4-(5-carbamoyl-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzofuro[2,3-c]pyridine | C(N)(=O)C=1C=C2C(=CNC2=CC1)CCCCN1CC2=C(CC1)C1=C(O2)C=CC=C1 | C24H25N3O2
